US04507498
A mixture of 10.0 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 8.4 ml of ethyl 2-bromopropionate and 10.7 g of anhydrous potassium carbonate in 125 ml of anhydrous acetone was stirred at reflux for 42 hours. The reaction mixture was filtered and the filtrate was concentrated to an oil which was purified by high pressure liquid chromatography using 2% ethyl acetate-toluene to yield 11.4 g (73%) of racemic-(4-acetyl-3-hydroxy-2-propylphenoxy)-alpha-methylacetic acid ethyl ester as an oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 10.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | ethyl 2-bromopropionate | 8.4 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 10.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | racemic-(4-acetyl-3-hydroxy-2-propylphenoxy)-alpha-methylacetic acid ethyl ester | 11.4 g, 73% | C(C)OC(C(C)OC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C16H22O5
